US06951865B2
Ethyl 2-(3-mesityl-2,5-dimethyl-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-yl)acetate
Diethyl acetylsuccinate (0.3 mL) and a catalytic amount of 4-toluenesulfonic acid monohydrate were added to a solution of 4-mesityl-3-methyl-1H-5-pyrazoleamine (100 mg) of Reference Example 1 in xylene (5 mL). Under heating under reflux, the mixture was stirred for three hours while distilling water off with Dean-Stark. The reaction solution was cooled, water was added thereto. The mixture was extracted twice with ethyl acetate, and washed twice with an aqeous saturated solution of sodium bicarbonate. The organic layer was separated and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography, to give the title compound (200 mg) as a yellow amorphous material.

reactant | Diethyl acetylsuccinate | 0.3 mL | C(C)(=O)C(C(=O)OCC)CC(=O)OCC | C10H16O5
reactant | 4-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 4-mesityl-3-methyl-1H-5-pyrazoleamine | 100 mg | C1(=C(C(=CC(=C1)C)C)C=1C(=NNC1N)C)C | C13H17N3
solvent | xylene | 5 mL | C=1(C(=CC=CC1)C)C | C8H10
product | Ethyl 2-(3-mesityl-2,5-dimethyl-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-yl)acetate | 200 mg | C1(=C(C(=CC(=C1)C)C)C=1C(=NN2C1NC(=C(C2=O)CC(=O)OCC)C)C)C | C21H25N3O3
